US09166177B2
Synthesis of ditriphenyleno[2,3-b:2′,3′-d]thiophene-6,14-diol
A mixture of 9.8 g (18 mmol) of 6,14-dimethoxyditriphenyleno[2,3-b:2′,3′-d]thiophene, 31.2 g (270 mmol) of pyridine hydrochloride, was degassed and placed under nitrogen, and then heated at 220° C. for 6 h, the mixture was allowed to cool to room temperature and water was added. The resulting solid was filtered off, washed with water, and dried under high vacuum to give the product (8.2 g, 15.8 mmol, 88%).

reactant | 6,14-dimethoxyditriphenyleno[2,3-b:2′,3′-d]thiophene | 18 mmol, 9.8 g | COC=1C=C2C3=CC=CC=C3C3=CC4=C(SC5=C4C=C4C6=CC=CC=C6C6=CC(=CC=C6C4=C5)OC)C=C3C2=CC1 | C38H24O2S
reactant | pyridine hydrochloride | 270 mmol, 31.2 g | Cl.N1=CC=CC=C1
product | ditriphenyleno[2,3-b:2′,3′-d]thiophene-6,14-diol | 15.8 mmol, 8.2 g, 88% | C1=C2C3=CC4=C(SC5=C4C=C4C6=CC=CC=C6C6=CC(=CC=C6C4=C5)O)C=C3C3=CC=C(C=C3C2=CC=C1)O | C36H20O2S
